US04547516
[[(2,2-Dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl]thio]acetic acid, methyl ester (I; R1 =H, R2 =SCH2COOCH3, and R3 and R4 =CH3)
A mixture of 5-(hydroxymethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (8.6 g, 50 mmole), described by Bihlmayer et al., supra, and mercaptoacetic acid methyl ester (13 g, 0.125 mole) in dry methanol (50 mL) was heated at reflux for 2 hr. Thereafter, the mixture was stirred for 18 hr at 20°-22° C., and then poured into ice-water. The resultant mixture was extracted with diethyl ether. The extract was dried (MgSO4) and concentrated to dryness under reduced pressure. The residue (8.0 g) was purified by chromatography on silica gel, using 30% ethyl acetate in hexane (v/v) as the eluant. The pure fractions were combined and the solvent removed under reduced pressure. Crystallization of the residue from ethyl acetate-hexane gave the title compound; mp 117°-118° C.; NMR (CDCl3) δ 1.7 (s, 6H), 3.65 (s, 2H), 3.75 (s, 3H), 8.95 (s, 1H); IR (CHCl3) 1735, 1700, 1535 cm-1 ; UVλmax (MeOH) 315 um (ε 8900), 260 (7950).

reactant | 5-(hydroxymethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 50 mmole, 8.6 g | OC=C1C(OC(OC1=O)(C)C)=O | C7H8O5
reactant | mercaptoacetic acid methyl ester | 0.125 mole, 13 g | COC(CS)=O | C3H6O2S
solvent | methanol | 50 mL | CO | CH4O
product | [[(2,2-Dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl]thio]acetic acid, methyl ester | CC1(OC(C(C(O1)=O)=CSCC(=O)OC)=O)C | C10H12O6S
